US04057542
A slurry is prepared from 351 parts of tetrahydrofuran, 85 parts of 90% potassium hydroxide powder and 0.6 part of ethylenediamine tetraacetic acid. The resulting slurry is stirred and 17.6 part of ethanol is added. The mixture is then warmed to 40° C. and stirred at the temperature for 30 minutes. The resulting slurry is then cooled to -10° C. and 95.6 parts of 3-(1-pyrrolidinyl)androsta-3,5-dien-17-one is added, maintaining the mixture under nitrogen. Then, 10.9 parts of acetylene is added to the mixture over a period of 3 hours. It is then stirred for one hour at a temperature of -10° C. or lower. Then, a mixture of 81.4 parts of glacial acetic acid and 122 parts of water is added while the temperature of the reaction mixture is maintained below 10° C. When the addition is nearly completed, the temperature is allowed to rise to 30° C. Stirring is stopped and the liquid layers are separated. The aqueous layer is extracted with tetrahydrofuran and the resulting organic extract is combined with the organic layer from the reaction mixture. To this resulting organic solution is added a solution of 26 parts of boric acid in 85 parts of water. The mixture is refluxed for one hour and the tetrahydrofuran is distilled off at atmospheric pressure while 350 parts of water is added. Once all of the tetrahydrofuran has been distilled off, an additional 197 parts of water is added. The mixture is then cooled to about 30°-35° C., the solid is separated by filtration and washed until the filtrate is neutral. The solid is then dried to give 17α-ethynyl-17β-hydroxyandrost-4-en-3-one melting at about 264.5°-269° C.

reactant | potassium hydroxide | [OH-].[K+]
reactant | ethylenediamine tetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | 3-(1-pyrrolidinyl)androsta-3,5-dien-17-one | N1(CCCC1)C1=CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C23H33NO
reactant | acetylene | C#C | C2H2
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 17α-ethynyl-17β-hydroxyandrost-4-en-3-one | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O)O | C21H28O2
